US06719520B2
3-Amino-1-[4-(4-chlorophenyl)-2,5-dioxo-1H-pyrrol-3-yl]pyridinium chloride
A mixture of 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione (100 mg, 0.41 mmol) and 3-aminopyridine (42.7 mg, 0.45 mmol) in dry THF (2.5 mL) was heated at 50° C. for 2 hours then stirred at room temperature overnight. The resulting suspension was filtered and the solid washed with dichloromethane (20 mL), then hexane (10 mL) to give the title compound as a solid.

reactant | 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione | 0.41 mmol, 100 mg | ClC=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | C10H5Cl2NO2
reactant | 3-aminopyridine | 0.45 mmol, 42.7 mg | NC=1C=NC=CC1 | C5H6N2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 3-Amino-1-[4-(4-chlorophenyl)-2,5-dioxo-1H-pyrrol-3-yl]pyridinium chloride | [Cl-].NC=1C=[N+](C=CC1)C=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | InChI=1S/C15H10ClN3O2.ClH/c16-10-5-3-9(4-6-10)12-13(15(21)18-14(12)20)19-7-1-2-11(17)8-19;/h1-8H,17H2;1H
